US07754727B2
A mixture of the title C compound, (3R*,4R*)-4-biphenyl-3-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester (54 mg, 0.11 mmol) and HCl (5M in 2-propanol, 1 mL, 5 mmol) is stirred for several h at RT (until complete consumption of the starting material). The reaction mixture is evaporated in vacuo to afford (3R*,4R*)-4-biphenyl-3-yl-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride as a slightly beige foam: MS (LC/MS) 394.1 [M+H]+; Rf 0.23 (DCM/MeOH 9:1).

reactant | (3R*,4R*)-4-biphenyl-3-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester | 0.11 mmol, 54 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C33H35NO3
reactant | HCl | 5 mmol, 5M, 1 mL | Cl | ClH
product | (3R*,4R*)-4-biphenyl-3-yl-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride | Cl.C1(=CC(=CC=C1)[C@@H]1[C@H](CNCC1)OCC1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | InChI=1S/C28H27NO.ClH/c1-2-7-22(8-3-1)25-11-6-12-26(18-25)27-15-16-29-19-28(27)30-20-21-13-14-23-9-4-5-10-24(23)17-21;/h1-14,17-18,27-29H,15-16,19-20H2;1H/t27-,28+;/m1./s1
